US07982036B2
A mixture of 2,6-diaminopyridine (1.530 g, 14.020 mmol) and 4,6-dichloropyrimidine (2.610 g, 17.519 mmol) in 15 mL of n-butanol in a sealed vial was heated at 100° C. for 72 h. The dark brown sample was cooled and was concentrated at reduced pressure to remove most of the n-butanol. The residue was then partitioned between EtOAc and saturated. NaHCO3 solution. An emulsion formed, the sample was filtered through a pad of Celite and the layers were separated. The organic extract was washed with sat. KH2PO4 and brine solutions, dried (MgSO4), filtered and concentrated to brown oily-solid. The sample was suspended into ˜50 mL of CH2Cl2, cooled and filtered to give 1.017 g (36%) of N-(6-chloro-pyrimidin-4-yl) -pyridine-2,6-diamine as yellow-orange solid. MS: m/z 222/224 (M+1, 100/63%). To a solution of N-(6-chloro-pyrimidin-4-yl)-pyridine-2,6-diamine (100 mg, 0.45 mmol) in DMF (1 mL) was added 3-methylphenol (88 mg, 0.8 mmol) and anhydrous K2CO3 (93 mg, 0.6 mmol). The reaction mixture was heated at 145° C. for 16 h. It was then cooled and DMF was removed under reduced pressure to get a yellow gummy residue. The residue was taken in EtOAc (20 mL), was washed sequentially with water (5 mL) and brine (5 mL) and was dried over Na2SO4. Filtration followed by concentration under reduced pressure afforded a yellow gum which was further purified by column chromatography (SiO2, 60-120, EtOAc/hexane, 5/5) to give 100 mg of 2-[6-(3-methylphenoxy)-pyrimidin-4-yl]amino-6-aminopyridine (IR-12) as a pale yellow solid. MS: m/z 294 (M+H)

reactant | N-(6-chloro-pyrimidin-4-yl)-pyridine-2,6-diamine | 0.45 mmol, 100 mg | ClC1=CC(=NC=N1)NC1=NC(=CC=C1)N | C9H8ClN5
reactant | 3-methylphenol | 0.8 mmol, 88 mg | CC=1C=C(C=CC1)O | C7H8O
reactant | K2CO3 | 0.6 mmol, 93 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 2-[6-(3-methylphenoxy)-pyrimidin-4-yl]amino-6-aminopyridine | 100 mg | CC=1C=C(OC2=CC(=NC=N2)NC2=NC(=CC=C2)N)C=CC1 | C16H15N5O
